Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Morphine / Soma
 
Attending: ___.
 
Chief Complaint:
syncope

 
Major Surgical or Invasive Procedure:
Dual Chamber Pacemaker placement ___

 
History of Present Illness:
___ with Afib on coumadin, morbid obesity, history of PE, 
presenting with recurrent syncope.  Has had 5 episodes of 
syncope in last 24 hours. Has had increasing frequency of 
discrete episodes of symptomatic Afib that last hours and 
usually resolve spontaneously; at the time of conversion to NSR 
she feels presyncopal (these presyncopal symptoms are new over 
the last 3 months).  Two weeks ago, presyncopal symptoms were 
very severe during a conversion and had near syncope, which was 
associated with a reportedly 6 second pause on ___ monitor.  
Never truly syncopized until yesterday.  Apparently also had 
significant pause overnight (documented at either 6 or 4.5 
seconds) witnessed by EMS (strip not available to me). Also had 
Afib with rates in 140s (not clear to me if before or following 
long pause).  Historically, presyncope always preceded by Afib 
and associated with Afib termination; however, with episodes 
yesterday she is unsure if her fib terminated, as notes that she 
was still in fib when she came to again.

She was brought to ___, where she was in sinus rhythm in 
the ___.  As no telemetry beds available, transferred to ___ 
for likely PPM placement.  

She was seen by Dr. ___ on ___ (note not yet available) 
for ?PPM placement; reports this is scheduled to be done on 
___.  
 
On review of systems, notable for dyspnea, chills, urinary 
frequency, and hand tingling during episodes of Afib - otherwise 
has not had these.  Does endorse diarrhea x 4 days, nonbloody, 
controlled with immodium.  Took antibiotics a couple months ago 
for a UTI.  She denies any prior history of stroke, TIA, 
myalgias, cough, hemoptysis. She denies recent fevers, or 
rigors. He denies exertional buttock or calf pain. All of the 
other review of systems were negative.  

Cardiac review of systems is notable for absence of chest pain, 
dyspnea on exertion, paroxysmal nocturnal dyspnea, orthopnea, 
change in ankle edema.
 
Past Medical History:
Cardiac Risk Factors: (-)Diabetes, (-)Dyslipidemia, 
(+)Hypertension  
 
Cardiac History: 
No CABG, PCI or Pacemaker/ICDs  
  
Other Past History: 
- morbid obesity 
- hypertension
- paroxysmal AFib (diagnosed ___ years ago)
- history of DVT with pulmonary emboli ___ 
- migraines
- diverticulosis
- sciatica
- s/p open cholecystectomy 
 
Social History:
___
Family History:
There is no family history of premature coronary artery disease 
or sudden death.  Multiple family members (mother, daughter, 
cousins) have Afib.
 
Physical Exam:
Exam on admission ___:
VS -  T97.7, 157/71, P60s, R22, 97% RA
Gen: Morbidly obese female lying in bed, NAD.  
HEENT: NCAT. Sclera anicteric. +pupil asymmetry (R 3->2, L fixed 
at ~4, old). Conjunctiva were pink, no pallor or cyanosis of the 
oral mucosa. No xanthalesma.  
Neck: Supple with JVD of 2-3 cm ASA.  
CV: RR, normal S1, S2. ___ SM at LUSB. No thrills, lifts. No S3 
or S4.  
Chest: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB anterolaterally  
Abd: Soft, morbidly obese, NTND. No HSM or tenderness.   
Ext: Obese extremities, no obvious pitting edema.
Skin: No stasis dermatitis, ulcers, scars, or xanthomas.   

Exam on discharge ***
 
Pertinent Results:
OSH labs: digoxin 0.2, bicarb 21, BNP 76, Ddimer negative

Labs on admission ___:
WBC-9.2 RBC-4.02* Hgb-13.4 Hct-39.8 MCV-99* MCH-33.4* MCHC-33.7 
RDW-13.7 Plt ___
Neuts-78.3* Lymphs-15.4* Monos-4.6 Eos-1.4 Baso-0.3
___ PTT-34.5 ___
Glucose-117* UreaN-12 Creat-0.7 Na-140 K-4.2 Cl-104 HCO3-24 
AnGap-16
Calcium-9.4 Phos-3.1 Mg-1.6
TSH-3.8

Labs on discharge ***

Micro: none

Imaging:
EKG demonstrated NSR at 63, PR ~200, NA normal intervals with no 
significant change compared with prior dated ___. 

Review of EMS tracings reveals Afib in 140s. 

CXR ___: Elevated right hemidiaphragm with clear lungs.

CXR ___ Post pacemaker placement: ***
 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with paroxysmal symptomatic 
Atrial fibrillation, morbid obesity, hypertension, who presented 
with recurrent syncope in setting of pauses during conversion 
from Afib to Normal Sinus Rhythm.

#. Rhythm/PAF/sinus pause. 
She has Afib which terminates and she then has a sinus pause 
before sinus node takes over again. On telemetry, patient 
alternated between Afib with RVR with HR in 100s to sinus 
bradycardia with HR in ___.  She did have a couple episodes of 
Afib with RVR to 140s, associated with anxiety, palpitations, 
urinary frequency, and overall discomfort; she was treated with 
an extra dose of low dose po metoprolol for these episodes which 
slowed her rate enough to convert rhythm.  On conversion from 
Afib to NSR, she had pauses associated with pre-syncopal 
symptoms. TSH normal. She had pacemaker placed ___.  She was 
given 3 doses of IV Vancomycin ___ and started on 
cephalexin 500mg Q6h x 2 days.  Warfarin had been held prior to 
procedure, and she was restarted on warfarin without heparin 
bridge. She was maintained on metoprolol which was uptritrated 
in the setting of further episodes of Afib with RVR and 
discharged to rehab on metoprolol succinate XL 100mg daily.  
This dose may be further uptitrated as needed.  Digoxin had been 
held in the setting of symptomatic sinus conversion pauses but 
was restarted upon discharge after pacemaker placement at home 
dose. 
 
#.  Diarrhea. 
Pt complained of recent diarrhea which improved on its own 
during hospitalization. She did have recent antibiotic course.  
No leukocytosis or fevers. She was continued on immodium as she 
was taking regularly at home. If diarrhea starts again, it 
should be further evaluated as outpatient.

#.  Sciatica. Stopped celebrex. Continued on tramadol. Given 
tylenol PRN.
 
Medications on Admission:
Diovan 80 mg BID
Atenolol 37.5 mg BID (recently decreased from 50 mg BID)
Digoxin 0.125 mg daily
Warfarin 6 mg daily
Celebrex ___ mg daily
Tramadol 50 mg BID
MVI
Immodium recently
 
Discharge Medications:
1. Valsartan 80 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
2. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
3. Tramadol 50 mg Tablet Sig: One (1) Tablet PO twice a day as 
needed for pain.  
4. Loperamide 2 mg Capsule Sig: One (1) Capsule PO TID (3 times 
a day) as needed for diarrhea.  
5. Cephalexin 500 mg Capsule Sig: One (1) Capsule PO Q6H (every 
6 hours) for 2 days.
Disp:*6 Capsule(s)* Refills:*0*
6. Warfarin 2 mg Tablet Sig: Three (3) Tablet PO Once Daily at 4 
___.  
7. Metoprolol Succinate 100 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO DAILY (Daily).  
8. Heparin (Porcine) 5,000 unit/mL Solution Sig: One (1) ml 
Injection TID (3 times a day).  
9. Digoxin 125 mcg Tablet Sig: One (1) Tablet PO once a day.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary: 
Atrial fibrillation with sinus arrest in normal sinus rhythm

Secondary:
Sciatica

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Ms. ___, you were admitted to ___ because you were having 
episodes where you passed out, which seemed to be related to a 
slow heart rate when your heart was switching back from atrial 
fibrillation to its normal rhythm. You had a pacemaker placed to 
keep you from passing out anymore.  We then increased your 
metoprolol to help prevent you from having further episodes of 
atrial fibrillation at a fast heart rate that makes you feel 
palpitations.

Changes to your medications:
1. STOP Celebrex
2. Please START Metoprolol Succinate XL 100mg daily
3. CONTINUE warfarin 6mg daily, but please have INR checked 
again tomorrow and ___ to make sure your INR comes up 
appropriately
4. Please STOP Atenolol 
5. Heparin SQ can be stopped after INR almost therapeutic 

You will need to have your INR rechecked at least ___ per week 
until it is stable within the appropriate range.
 
Followup Instructions:
___